US08202873B2
2-{4-[4-(1,5-Dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-2-methyl-propionitrile hydrochloride
Dissolve 3′-chloro-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (307 mg, 1.0 mmol) in N,N-dimethylacetamide (4 mL). Add potassium carbonate (332 mg, 2.4 mmol), 2-methyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionitrile (300 mg, 1.2 mmol), tetrakis(triphenylphosphine)palladium(0) (0.0050 g, 0.0058 mmol), then water (2 mL) and degas with nitrogen for 10 min. Heat at 120° C. for 20 hr., then purify by SCX-2® chromatography washing with methanol. Elute with 2 M ammonia in methanol and concentrate. Purify by low pH reverse phase HPLC, then form the free base by passing through an SCX-2® ion exchange cartridge washing with methanol then eluting with 2 M ammonia in methanol and concentrate. Dissolve the free base in acetonitrile and convert to the hydrochloride salt by adding 2 M aq HCl solution. Add water and lyophilize to give the title compound as a light yellow powder (158 mg, 35%). MS (ES): m/z=416 [M+H]+.

reactant | 3′-chloro-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 1.0 mmol, 307 mg | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)C | C14H19ClN6
reactant | potassium carbonate | 2.4 mmol, 332 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionitrile | 1.2 mmol, 300 mg | CC(C#N)(C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H22BNO2
reactant | water | 2 mL | O | H2O
solvent | N,N-dimethylacetamide | 4 mL | CN(C(C)=O)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0058 mmol, 0.0050 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-{4-[4-(1,5-Dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-2-methyl-propionitrile hydrochloride | 158 mg, 35% | Cl.CN1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)C(C#N)(C)C | InChI=1S/C24H29N7.ClH/c1-18-20(15-28-29(18)4)16-30-11-13-31(14-12-30)23-22(26-9-10-27-23)19-5-7-21(8-6-19)24(2,3)17-25;/h5-10,15H,11-14,16H2,1-4H3;1H
